US08217177B2
To a solution of methyl 2-(quinolin-6-yl)propanoate (0.868 g, 4.03 mmol) in THF (1.1M, 3.7 mL) at −78° C. was added LiHMDS (1M in THF) (5.24 ml, 5.24 mmol). The reaction was stirred at −78° C. for ˜15 minutes, then to it was added a solution of N-fluorobenzenesulfonimide (1.40 g, 4.44 mmol) in THF (1.0M, 4.5 mL). The reaction was allowed to warm to −10° C. over 2 h. The reaction was filtered through a plug of Celite, washed with EtOAc and the filtrate was then concentrated in vacuo. The concentrated material was rediluted with EtOAc and washed with saturated NH4Cl solution. The aqueous layer was then extracted with EtOAc, and the organic layers were dried over MgSO4, filtered and concentrated in vacuo. The crude material was dissolved in minimal DCM and purified via MPLC (eluting with isocratic 40% EtOAc:Hexanes to yield methyl 2-fluoro-2-(quinolin-6-yl)propanoate (0.709 g, 75.4% yield) as a yellow oil. To synthesize the corresponding acid, methyl 2-fluoro-2-(quinolin-6-yl)propanoate was saponified in a method similar to that of 2-(quinolin-6-yl)propanoic acid.

reactant | methyl 2-(quinolin-6-yl)propanoate | 4.03 mmol, 0.868 g | N1=CC=CC2=CC(=CC=C12)C(C(=O)OC)C | C13H13NO2
reactant | LiHMDS | 5.24 mmol, 1M, 5.24 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-fluorobenzenesulfonimide | 4.44 mmol, 1.40 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 1.1M, 3.7 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0M, 4.5 mL | C1CCOC1 | C4H8O
product | methyl 2-fluoro-2-(quinolin-6-yl)propanoate | 0.709 g, 75.4% yield | FC(C(=O)OC)(C)C=1C=C2C=CC=NC2=CC1 | C13H12FNO2
